US06747023B1
1-Phenylsulfonyl-5-trimethylsilylethynylindole
In tetrahydrofuran (7.00 ml), 5-bromo-1-phenylsulfonylindole (1.50 g) and triphenylphosphine (351 mg) were dissolved. Triethylamine (20 ml), N,N-dimethylformamide (7.00 ml), trimethylsilylacetylene (945 up) and palladium acetate (100 mg) were added to the resulting solution at room temperature, followed by heating under reflux for 5 hours. After the reaction mixture was allowed to cool down to room temperature, ethyl acetate and water were added to the reaction mixture to separate the organic layer. The resulting organic layer was dried over anhydrous sodium sulfate and then distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (hexane:ethyl acetate=20:1 to 10:1), whereby the title compound (935 mg, 59%) was obtained as a white solid.

reactant | 5-bromo-1-phenylsulfonylindole | 1.50 g | BrC=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1 | C14H10BrNO2S
reactant | triphenylphosphine | 351 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
solvent | tetrahydrofuran | 7.00 ml | O1CCCC1 | C4H8O
catalyst | palladium acetate | 100 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 7.00 ml | CN(C=O)C | C3H7NO
product | 1-Phenylsulfonyl-5-trimethylsilylethynylindole | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)C#C[Si](C)(C)C | C19H19NO2SSi
